US07737149B2
5-(3,4,6,7,8,8a-Hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide
5-Chloro-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (585 mg, 1.50 mmol) was added in one portion to 1,2,3,4,6,7,8,8a-octahydropyrrolo[1,2-a]pyrazine (379 mg, 3.00 mmol) in anhydrous dimethylsulfoxide (1.50 ml) at 25° C. The resulting solution was stirred at 100° C. for 18 h. The residue was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH to afford impure material. The concentrated eluent was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford impure product as a yellow solid. The impure material was then repurified by silica column chromatography, eluting with a gradient of 0 to 5% 7M NH3/MeOH in DCM. Pure fractions were evaporated to dryness to afford the title compound (269 mg, 37%) as a yellow solid.

reactant | 5-Chloro-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 1.50 mmol, 585 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)OCC1=CC(=CC(=C1)OC)OC | C17H16ClN5O4
reactant | 1,2,3,4,6,7,8,8a-octahydropyrrolo[1,2-a]pyrazine | 3.00 mmol, 379 mg | C1C2N(CCN1)CCC2 | C7H14N2
solvent | dimethylsulfoxide | 1.50 ml | CS(=O)C | C2H6OS
product | 5-(3,4,6,7,8,8a-Hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 269 mg, 37% | C1N(CCN2C1CCC2)C=2N=CC(=NC2)C(=O)NC=2NN=C(C2)OCC2=CC(=CC(=C2)OC)OC | C24H29N7O4
